US08685991B2
Part A. Preparation of 6-bromo-1H-indene-3-carbonitrile
To a solution of 5-bromo-2,3-dihydro-1H-inden-1-one (1 g, 4.74 mmol) in anhydrous THF (15 ml) at −10° C. was added 2M lithium diisopropylamide in THF (0.242 ml, 0.483 mmol) dropwise. The resulting mixture was stirred at −10° C. for 15 min before diethylcyanophosphonate (0.791 ml, 5.21 mmol) was added dropwise. Following the addition, the mixture was allowed to warm to room temperature, and was stirred at room temperature for 3 h. The mixture was cooled to −78° C. and borontrifluoride diethyl etherate (1.196 ml, 9.52 mmol) was added dropwise. Following the addition, the mixture was stirred at −78° C. for 1 h and was then allowed to warm to room temperature and was stirred at room temperature for 16 h. The mixture was concentrated in vacuo, and the residue was partitioned between EtOAc (50 mL) and H2O (2×50 mL). The organic layer was dried over Na2SO4, filtered and concentrated in vacuo, and the crude product was purified by column chromatography on silica gel using 9:1 EtOAc:hexanes as the eluent. The title compound was obtained as an tan solid (0.72 g, 69%).

reactant | 5-bromo-2,3-dihydro-1H-inden-1-one | 4.74 mmol, 1 g | BrC=1C=C2CCC(C2=CC1)=O | C9H7BrO
reactant | lithium diisopropylamide | 2M | C(C)(C)[N-]C(C)C.[Li+]
reactant | diethylcyanophosphonate | 5.21 mmol, 0.791 ml | C(C)OP(OCC)(=O)C#N | C5H10NO3P
solvent | THF | 15 ml | C1CCOC1 | C4H8O
solvent | THF | 0.483 mmol, 0.242 ml | C1CCOC1 | C4H8O
product | 6-bromo-1H-indene-3-carbonitrile | BrC1=CC=C2C(=CCC2=C1)C#N | C10H6BrN
